US04470973
(b) (±)-N-[3-(Methylamino)-2-oxo-1-(phenylmethyl)propyl]benzamide, hydrochloride
[3-(Benzoylamino)-2-oxo-4-phenylbutyl]methylcarbamic acid, phenylmethyl ester (0.5 g.) is dissolved in ethanol (50 ml.) containing 1N hydrochloric acid (2 ml.). Palladium carbon catalyst (10%, 100 mg.) is added and hydrogenation is continued overnight. The reaction mixture is then filtered, evaporated, dissolved in water, and lyophilized to 300 mg. of (±)-N-[3-(methylamino)-2-oxo-1-(phenylmethyl)propyl]benzamide, hydrochloride as a homogeneous white powder.

reactant | [3-(Benzoylamino)-2-oxo-4-phenylbutyl]methylcarbamic acid, phenylmethyl ester | 0.5 g | C(C1=CC=CC=C1)(=O)NC(C(CN(C(OCC1=CC=CC=C1)=O)C)=O)CC1=CC=CC=C1 | C26H26N2O4
reactant | hydrochloric acid | 1N, 2 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Palladium carbon | 100 mg | [C].[Pd]
product | (±)-N-[3-(Methylamino)-2-oxo-1-(phenylmethyl)propyl]benzamide, hydrochloride | Cl.CNCC(C(CC1=CC=CC=C1)NC(C1=CC=CC=C1)=O)=O | InChI=1S/C18H20N2O2.ClH/c1-19-13-17(21)16(12-14-8-4-2-5-9-14)20-18(22)15-10-6-3-7-11-15;/h2-11,16,19H,12-13H2,1H3,(H,20,22);1H
